US04515666
Preparation of 1,4-di(4'-methylbenzoyl)benzene
To a stirred mixture of 40 g of terephthaloyl chloride and 200 ml of toluene was added in portions 56 g of solid aluminium chloride at such a rate to maintain the reaction temperature at 45°-55°. The thick orange slurry was then heated to 75° for 2 hours, cooled in ice and slowly treated with 200 ml of dilute HCL. The slurry was stirred for 2 hours at room temperature. The solid was collected by filtration, washed with 200 ml of petroleum ether and 2 L of hot water, and dried to constant weight to give 51 g of colorless product, m.p. 178°-187°. This material was used without further purification.

reactant | terephthaloyl chloride | 40 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-di(4'-methylbenzoyl)benzene | 51 g | CC1=CC=C(C(=O)C2=CC=C(C=C2)C(C2=CC=C(C=C2)C)=O)C=C1 | C22H18O2
